US08754100B2
Synthesis of 5-hydroxy-3-(3-trifluoromethylphenyl)pentanoic acid hydrazide
4-(3-Trifluoromethylphenyl)tetrahydropyran-2-one (2.5 g) was dissolved in ethanol (10 mL), and hydrazine monohydrate (4.96 mL) was added at room temperature. The mixture was stirred at 80° C. for 4.5 hours and then concentrated under reduced pressure. The resulting oil was partitioned with methylene chloride and water. The aqueous layer was extracted with methylene chloride five times. After drying over magnesium sulfate, concentration under reduced pressure and purification by silica gel column chromatography (amino silica gel, mobile phase:ethyl acetate/heptane=0 to 50%→methanol/ethyl acetate=10%) gave the title compound (1.55 g).

reactant | 4-(3-Trifluoromethylphenyl)tetrahydropyran-2-one | 2.5 g | FC(C=1C=C(C=CC1)C1CC(OCC1)=O)(F)F | C12H11F3O2
reactant | hydrazine monohydrate | 4.96 mL | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-hydroxy-3-(3-trifluoromethylphenyl)pentanoic acid hydrazide | 1.55 g | OCCC(CC(=O)NN)C1=CC(=CC=C1)C(F)(F)F | C12H15F3N2O2
